US06274383B1
In the same manner as Example 35(a), O-benzylhydroxylamine hydrochloride (0.52 g, 3.25 mmol) reacted with 5-nitro-isatoic anhydride (0.52 g, 2.5 mmol) to give 2-amino-5-nitro-N-benzyloxylbenzamide as a yellow solid (0.51 g).

reactant | O-benzylhydroxylamine hydrochloride | 3.25 mmol, 0.52 g | Cl.C(C1=CC=CC=C1)ON
reactant | 5-nitro-isatoic anhydride | 2.5 mmol, 0.52 g | [N+](=O)([O-])C1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4N2O5
product | 2-amino-5-nitro-N-benzyloxylbenzamide | 0.51 g | NC1=C(C(=O)NOCC2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C14H13N3O4
